Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-4.90224162419
[C:4]([H:5])([H:6])([C:7][H:13])[H:12].[H:1][C:2]#[C:3][C:8]([H:9])([C:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.146654001739999
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.7332603
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],3.89714186878
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:8]([H:9])[H:10].[C:5]([H:6])([H:7])[H:11],3.07657279324
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.6366493831
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.46024431315
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])#[C:14][H:15].[H:1][C:3]([H:16])[H:17],1.42425448704
[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-8.36736883902
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-2.4849610074400004
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],-0.50965702
[H:1][O:2][C:3]#[C:4][C:6]([O:5])([H:7])[H:8]>>[H:1][O:2][C:3][C:4]1[O:5][C:6]1([H:7])[H:8],0.0062925558295299
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.91435391581
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:3],3.95692976643
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],5.86413560076
[C:1][C:2][O:3].[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-1.93162821736
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],0.64284990598
[C:2](\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:13][H:14].[H:1][C:3]([H:15])[H:16]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.6092409243
[H:1][O:2][C:3]1([C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-0.61547914978
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.52124372367
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-1.2131860589
[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:11]([C:6](=[O:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],-0.0465856634401
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]#[C:7][H:8],-0.7219973411599999
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.98126153538
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3]1([C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11],0.61547914978
[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])#[C:5][C:6]([H:7])[O:8][H:9],4.96440290502
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.08035116418
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.64820518249
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]=[O:3],1.66818080266
